US05958918
C. 4-(3-Chloropyridin-2-yloxy)benzene sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride as in EXAMPLE 24, Part B using 4-(3-chloropyridin-2-yloxy)benzene sulfonyl chloride in place of 6-methoxynaphthalene-2-sulfonyl chloride.

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 4-(3-chloropyridin-2-yloxy)benzene sulfonyl chloride | ClC=1C(=NC=CC1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C11H7Cl2NO3S
product | 4-(3-Chloropyridin-2-yloxy)benzene sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC=C(C=C2)OC2=NC=CC=C2Cl)=O)C=CC1 | C23H19ClN4O4S
